US07902252B2
2.27. Synthesis of 4-(2-methyl-2-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (35)
The title compound was synthesized from methyl 4-(2-methyl-2-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.10 g, 0.33 mmol) and lithium hydroxide monohydrate (142 mg, 3.3 mmol) according to General Procedure 7. Silica gel was added, the solvent stripped off and the silica gel-imbedded material was purified by flash chromatography (0-100% EtOAc/Heptane) to give 4-(2-methyl-2-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (35) as a reddish brown solid (2.4 mg).

reactant | methyl 4-(2-methyl-2-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.33 mmol, 0.10 g | CC(CC1CCC=2NC(=CC21)C(=O)OC)(C)C2=CC=CC=C2 | C19H23NO2
reactant | lithium hydroxide monohydrate | 3.3 mmol, 142 mg | O.[OH-].[Li+]
product | 4-(2-methyl-2-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 2.4 mg | CC(CC1CCC=2NC(=CC21)C(=O)O)(C)C2=CC=CC=C2 | C18H21NO2
